US05155210
Bromination with N-bromosuccinimide (NBS) is accomplished by adding 2.24 mmoles of actinomycin D in chlorobenzene to 2 mmoles of NBS and a trace of dibenzoyl peroxide. The mixture is heated to 80° C. and allowed to react for 6 hours. The yield of AMD--CH2Br is 70-80%. The brominated derivative is then reacted further with aminocaprioic acid to yield an AMD-aminocaproic acid complex (AMD--CH2NH (CH2)5COOH).

reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | actinomycin D | 2.24 mmoles | CC1=CC=C(C2=C1OC3=C(C(=O)C(=C(C3=N2)C(=O)N[C@H]4[C@H](OC(=O)[C@@H](N(C(=O)CN(C(=O)[C@@H]5CCCN5C(=O)[C@H](NC4=O)C(C)C)C)C)C(C)C)C)N)C)C(=O)N[C@H]6[C@H](OC(=O)[C@@H](N(C(=O)CN(C(=O)[C@@H]7CCCN7C(=O)[C@H](NC6=O)C(C)C)C)C)C(C)C)C | C62H86N12O16
reactant | NBS | 2 mmoles | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | aminocaproic acid | C(CCC(=O)O)CCN | C6H13NO2
